US04474754
14(a). Preparation of H-Leu-Ser-OCH3.HCl
4.20 Grams of Z-Leu-Ser-OCH3 was suspended in a mixture of 40 ml of methan-1 with 11.46 ml of 1N-hydrochloric acid, then a small amount of palladium black was added to the suspension, stirred for 18 hours under the condition of introducing hydrogen gas. After completion of the reaction the catalyst was removed by suction filtration, the filtrate was subjected to distillation under a reduced pressure, further to the residue obtained was added water and distillation under a reduced pressure were repeated 3 times. The residue thus obtained was dried under a reduced pressure in a desiccator containing phosphorus pentoxide as the desiccant to obtain the desired product.

reactant | Z-Leu-Ser-OCH3 | N([C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C18H26N2O6
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium black | [Pd] | Pd
product | H-Leu-Ser-OCH3.HCl | N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)OC.Cl | InChI=1S/C10H20N2O4.ClH/c1-6(2)4-7(11)9(14)12-8(5-13)10(15)16-3;/h6-8,13H,4-5,11H2,1-3H3,(H,12,14);1H/t7-,8-;/m0./s1
